US04966913
2-Fluorobenzoyl cyanide was prepared according to the general procedure reported by G. A. Olah et al. [supra]. Under dry conditions, 1.2 mL of 2-fluorobenzoyl chloride (97%, Aldrich) (10 mmol), 26 mL of methylene chloride, freshly distilled from phosphorus pentoxide under nitrogen, and 1.55 mL of trimethylsilyl cyanide (12 mmol) were placed in a 100-mL round bottom flask. To this solution 0.25 mL of tin (IV) chloride (2.1 mmol) was added. On addition of the tin (IV) chloride, the color of the solution changed from yellow to dark brown. The reaction mixture was stirred for 2 hr at room temperature, then quenched with 75 mL of ice-cold water, and finally extracted with two 75-mL portions of methylene chloride. The methylene chloride extracts were combined, washed with two 75-mL portions of ice-cold water, dried with MgSO4, and filtered. The methylene chloride was removed by rotary evaporation to yield a dark brown oil which was purified by Kugelrohr vacuum distillation to yield 0.711 g (47%) of 2-fluorobenzoyl cyanide as a colorless oil: IR (CH2Cl2) (partial) 2225, 1695, 1670, 1610, 1489, 1484, 1457 cm-1.

reactant | 2-fluorobenzoyl chloride | 10 mmol, 1.2 mL | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | trimethylsilyl cyanide | 12 mmol, 1.55 mL | C[Si](C)(C)C#N | C4H9NSi
reactant | tin (IV) chloride | 2.1 mmol, 0.25 mL | [Sn](Cl)(Cl)(Cl)Cl
solvent | methylene chloride | 26 mL | C(Cl)Cl | CH2Cl2
product | 2-fluorobenzoyl cyanide | 0.711 g, 47% | FC1=C(C(=O)C#N)C=CC=C1 | C8H4FNO
